US07906517B2
2-({(3,5-Bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenol (400 mg) and pyridine (79 μl) are dissolved in methylene chloride (10 ml) and thereto is added trifluoromethanesulfonic anhydride (163 μl) under ice-cooling and the mixture is stirred under nitrogen atmosphere at 0° C. for 30 minutes. The reaction solution is cooled to room temperature and stirred for 50 minutes, and thereto is added trifluoromethanesulfonic anhydride (81 μl) and the mixture is stirred for 10 minutes. Thereto are added a saturated aqueous sodium bicarbonate solution and chloroform, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1) to give trifluoromethanesulfonic acid 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl ester (386 mg). MS (m/z): 750 [M+H]+

reactant | 2-({(3,5-Bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenol | 400 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C24H20F9N3O4S
reactant | pyridine | 79 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 163 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethanesulfonic anhydride | 81 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | trifluoromethanesulfonic acid 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl ester | 386 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C25H19F12N3O6S2
